US06951848B2
2-Methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester hydrochloride
To a solution of 2-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester (70 mg, 0.19 mmol) in methylene chloride (1 mL) was added hydrogen chloride in diethyl ether. The resulting mixture was concentrated in vacuo and triturated with diethyl ether to give 61 mg (79%) of titled compound as a white foam: mp 76-78° C.; Anal. Calcd for C23H27Cl1N2O2.2.9H2O: C, 61.23; H, 7.33; N, 6.21. Found: C, 60.83; H, 6.93; N, 5.92.

reactant | 2-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester | 0.19 mmol, 70 mg | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCN1CCCC1)C | C23H26N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester hydrochloride | 61 mg, 79% | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCN1CCCC1)C | InChI=1S/C23H26N2O2.ClH/c1-17-22(23(26)27-16-19-7-3-2-4-8-19)20-15-18(9-10-21(20)24-17)11-14-25-12-5-6-13-25;/h2-4,7-10,15,24H,5-6,11-14,16H2,1H3;1H
